US07666888B2
((4R)-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-4-phenylpyrrolidin-3-yl)methanol
A solution of (4-phenylpyrrolidin-3-yl)methanol (7 mg, 0.033 mmol), TBTU (13 mg, 0.039 mmol, 1.2 equ.) and N-ethyl-N-isopropylpropan-2-amine (11 μL, 0.066 mmol, 2 equ.) in DMF (0.3 mL) was added to 5-(4-methylphenyl)isoxazole-4-carboxylic acid (7 mg, 0.033 mmol) and the reaction mixture was stirred at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (4 mg). MS (ESI, pos. ion) m/z calcd for C22H22N2O3: 362.1630, found 362.1629.

reactant | (4-phenylpyrrolidin-3-yl)methanol | 0.033 mmol, 7 mg | C1(=CC=CC=C1)C1C(CNC1)CO | C11H15NO
reactant | TBTU | 0.039 mmol, 13 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.066 mmol, 11 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.033 mmol, 7 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | ((4R)-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-4-phenylpyrrolidin-3-yl)methanol | 4 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC([C@@H](C1)C1=CC=CC=C1)CO | C22H22N2O3
